US03959364
4-Bromo-2-fluorobiphenyl
2-Amino-4-bromo-biphenyl was subjected to a Schiemann reaction using hydrofluoroboric acid. The product had a b.p. of 106°-109°C./0.6mm, and a m.p. of 38°-39°C.

reactant | 2-Amino-4-bromo-biphenyl | NC1=C(C=CC(=C1)Br)C1=CC=CC=C1 | C12H10BrN
reactant | hydrofluoroboric acid | B(F)(F)F.F
product | 4-Bromo-2-fluorobiphenyl | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
